US04008313
2.15 g. of 6α-fluoro-11β,21-dihydroxy-16α-methyl-1,4,8-pregnatriene-3,20-dione is dissolved in 4.3 ml. of pyridine. The solution is combined with 2.15 ml. of butyric acid anhydride and stirred at room temperature. After 1 hour, the reaction solution is introduced into ice water; the thus-formed precipitate is filitered off and dissolved in methylene chloride. The methylene chloride solution is washed neutral, dried, and concentrated. The crude product of 2.6 g. is purified by chromatography, and recrystallization from methylene chloride-diisopropyl ether yields 6α-fluoro-11β-hydroxy-21-butyryloxy-16α-methyl-1,4,8-pregnatriene-3,20-dione, m.p. 112° C.

reactant | 6α-fluoro-11β,21-dihydroxy-16α-methyl-1,4,8-pregnatriene-3,20-dione | F[C@H]1CC=2[C@@H]3C[C@H]([C@H](C(CO)=O)[C@]3(C[C@@H](C2[C@]2(C=CC(C=C12)=O)C)O)C)C | C22H27FO4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | butyric acid anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6α-fluoro-11β-hydroxy-21-butyryloxy-16α-methyl-1,4,8-pregnatriene-3,20-dione | F[C@H]1CC=2[C@@H]3C[C@H]([C@H](C(COC(CCC)=O)=O)[C@]3(C[C@@H](C2[C@]2(C=CC(C=C12)=O)C)O)C)C | C26H33FO5
